US06897231B2
B. N-[3-(5-(1H-1,2,4-triazol-3-yl)(1H-indazol-3-yl))phenyl]cyclopentylcarboxamide
Cyclopentyl-N-(3-{1-perhydro-2H-pyran-2-yl-5-[1-(triphenylmethyl)(1,2,4-triazol-3-yl)](1H-indazol-3-yl)}phenyl)carboxamide was dissolved in 4 mL of 4.0 N HCl in 1,4-dioxane and the reaction was stirred at room temperature overnight. After neutralization with aqueous NaHCO3, the reaction mixture was evaporated to dryness and purified by preparative HPLC. (0.043 g, 46% yield over 2 steps): 1H NMR (CD3OD) δ 8.73 (s, 1H), 8.36 (br s, 1H), 8.17 (s, 1H), 8.10 (d, 1H), 7.76-7.67 (m, 3H), 7.5 (t, 1H), 2.85 (quintet, 1H), 2.04-1.63 (m, 8H); ES-MS (m/z) 373.

reactant | Cyclopentyl-N-(3-{1-perhydro-2H-pyran-2-yl-5-[1-(triphenylmethyl)(1,2,4-triazol-3-yl)](1H-indazol-3-yl)}phenyl)carboxamide | C1(CCCC1)C(=O)NC1=CC(=CC=C1)C1=NN(C2=CC=C(C=C12)C1=NN(C=N1)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)C1OCCCC1 | C45H42N6O2
solvent | HCl | 4.0 N, 4 mL | Cl | ClH
solvent | 1,4-dioxane | O1CCOCC1 | C4H8O2
product | N-[3-(5-(1H-1,2,4-triazol-3-yl)(1H-indazol-3-yl))phenyl]cyclopentylcarboxamide | 46% yield | N1N=C(N=C1)C=1C=C2C(=NNC2=CC1)C=1C=C(C=CC1)NC(=O)C1CCCC1 | C21H20N6O
